US09056873B2
A mixture of bis(triphenylphosphine)palladium chloride (13.09 mg, 0.019 mmol), tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (187 mg, 0.373 mmol), and ethyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolizine-7-carboxylate (118 mg, 0.373 mmol) in dioxane (4 mL) and saturated aqueous NaHCO3 (1 mL) were heated to 100° C. in a Biotage Initiator microwave for 1 hour. The mixture was concentrated to give the intermediate, tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-(7-(ethoxycarbonyl)indolizin-2-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate, which was subsequently dissolved in DCM (5 mL) and TFA (5 mL). The resulting solution was stirred at room temperature for 20 minutes, concentrated, and purified by preparatory HPLC, eluting with a gradient of 10-40% ACN (0.035% TFA) and water (0.05% TFA). The collected fractions were combined and dried to give a TFA salt of the title compound as a tan solid (31 mg, 18%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.34 (t, J=6.80 Hz, 3H), 1.78-1.81 (m, 1H), 2.11-2.12 (m, 1H), 3.62-3.65 (m, 1H), 3.89-3.91 (m, 1H), 3.94-4.28 (m, 3H), 4.31 (q, J=6.83 Hz, 2H), 4.43 (d, J=8.3 Hz, 2H), 4.53-4.54 (m, 1H), 6.96 (dd, J=1.46, 7.32 Hz, 1H), 7.15 (d, J=4.88 Hz, 1H), 7.71 (s, 1H), 7.92-7.93 (m, 2H), 8.21 (s, 1H), 8.36 (d, J=7.32 Hz, 1H), 8.48 (s, 1H), 9.03 (s, 1H). ESI-MS m/z [M+H]+ calc'd for C23H24FN5O4, 454. found, 454.

reactant | tert-butyl 6-((3R,4R)-3-(tert-butoxycarbonylamino)tetrahydro-2H-pyran-4-ylamino)-4-chloro-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 0.373 mmol, 187 mg | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)Cl)C(N(C2)C(=O)OC(C)(C)C)=O)F | C22H30ClFN4O6
reactant | ethyl 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)indolizine-7-carboxylate | 0.373 mmol, 118 mg | CC1(OB(OC1(C)C)C=1C=C2C=C(C=CN2C1)C(=O)OCC)C | C17H22BNO4
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | NaHCO3 | 1 mL | C(=O)(O)[O-].[Na+]
catalyst | bis(triphenylphosphine)palladium chloride | 0.019 mmol, 13.09 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | tert-butyl 6-(((3R,4R)-3-((tert-butoxycarbonyl)amino)tetrahydro-2H-pyran-4-yl)amino)-4-(7-(ethoxycarbonyl)indolizin-2-yl)-7-fluoro-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | C(C)(C)(C)OC(=O)N[C@H]1COCC[C@H]1NC1=C(C2=C(C(=N1)C=1C=C3C=C(C=CN3C1)C(=O)OCC)C(N(C2)C(=O)OC(C)(C)C)=O)F | C33H40FN5O8
